US05428129
In 80 ml of H2O was suspended 4.50 g of H-Asn-OH.H2O, followed by addition of 80 ml of a THF solution containing 4.20 ml of triethylamine and 14.13 g of Boc-Ser(Bzl)-OSu under ice-cooling. The mixture was stirred at room temperature for 20 hours, after which the THF was distilled off. The residual aqueous solution was adjusted to pH 3 with 1M citric acid under ice-cooling and the resulting oily product was extracted with 200 ml of ethyl acetate. The extract was washed with 50 ml of saturated aqueous sodium chloride solution twice, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was treated with ether/petroleum ether (2:1) for solidification and the resultant powder was reprecipitated from methanol-isopropyl ether to give 8.74 g of Boc-Ser(Bzl)-Asn-OH (yield 71.2%).

reactant | H-Asn-OH.H2O | 4.50 g | N[C@@H](CC(N)=O)C(=O)O.O
reactant | THF | 80 ml | C1CCOC1 | C4H8O
reactant | triethylamine | 4.20 ml | C(C)N(CC)CC | C6H15N
reactant | Boc-Ser(Bzl)-OSu | 14.13 g | N([C@@H](COCC1=CC=CC=C1)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C19H24N2O7
solvent | H2O | 80 ml | O | H2O
product | Boc-Ser(Bzl)-Asn-OH | 8.74 g, yield 71.2% | N([C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC(N)=O)C(=O)O)C(=O)OC(C)(C)C | C19H27N3O7
